US06136499
To a 25 ml glass vial equipped with a Teflon® coated stir bar was added 3.06 g (12.8 mmole) of pure of bicyclo[2.2.1]hept-5-ene-exo,exo-2,3-dicarboxylic acid diethyl ester, 2.5 g (12.8 mmole) of t-butylester of norbornene, followed by 15 ml of freshly distilled methylene chloride and 10 ml of methanol, and the solution was degassed under argon atmosphere. A 10 ml glass vial equipped with a Teflon® coated stir bar was charged with 0.0188 g (0.052 mmol) of allylpalladium chloride dimer (to give a monomer to catalyst ratio of 500/1) and 2 ml of methylene chloride. Into another 10 ml glass vial was charged with 0.0357 g (0.104 mmol) of silver hexafluoroantimonate and 2 ml of methylene chloride. The catalyst solution was prepared by mixing the allylpalladium chloride dimer solution with silver hexafluoroantimonate solution inside the dry box. Immediate precipitation of the silver chloride salt was observed, which was filtered, to obtain a clear yellow solution. The active yellow catalyst solution was added to the monomer solution via a syringe at 50° C. and the reaction mixture was allowed to stir for 16 hours at room temperature. No appreciable increase in viscosity was observed and the solution was filtered through a 0.5 μ filter, concentrated using a rotovap. The resulting viscous solution was dissolved in methanol and precipitated into methanol/water mixture to obtain a white solid yield (23%). The molecular weight was observed to be Mn=15,700 g/mole and Mw=32,100 g/mole (GPC in THF, polystyrene standards). 1H NMR indicates the presence of both methyl and t-butyl ester of norbornene. Thermogravimetric analysis (TGA) under nitrogen (heating rate 10° C./min.) showed the polymer to be thermally stable to about 155° C. and then to exhibit approximately 20 wt. % loss by 290° C. (indicating clean loss of the t-butyl groups as isobutylene to afford the homopolymer of 5-norbornene-carboxylic acid) and then degradation of the polymer at around 450° C.

reactant | norbornene | C12C=CC(CC1)C2 | C7H10
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | methanol | 10 ml | CO | CH4O
reactant | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
reactant | isobutylene | CC(C)=C | C4H8
reactant | THF | C1CCOC1 | C4H8O
catalyst | allylpalladium chloride dimer | 0.052 mmol, 0.0188 g | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
catalyst | silver hexafluoroantimonate | 0.104 mmol, 0.0357 g | F[Sb-](F)(F)(F)(F)F.[Ag+]
product | 5-norbornene-carboxylic acid | C12C=CC(C(C1)C(=O)O)C2 | C8H10O2
